US05126448
In 150 ml of glacial acetic acid was dissolved 33.6 g of benzo[b]thiophene, and 50 ml of a benzene solution of 19.6 g of methylideneisopropylamine was added dropwise to the solution under ice-cooling. After allowing the temperature to rise to room temperature and stirring the mixture for 2 days, the reaction mixture was poured in 500 ml of water and washed thrice with 100 ml of ether. The aqueous layer thus formed was adjusted to pH 10.0 with an aqueous 5N sodium hydroxide solution and extracted 4 times with 100 ml ethyl acetate. The ethyl acetate layer was collected, washed with an aqueous saturated sodium chloride solution, dried by sodium sulfate, dried, then dried under reduced pressure, and the product was subjected to silica gel column chromatography to provide 30.8 g (yield of 60%) of (benzo[b]thiophen-3-ylmethyl)isopropylamine.

reactant | benzo[b]thiophene | 33.6 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | methylideneisopropylamine | 19.6 g | C=NC(C)C | C4H9N
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | water | 500 ml | O | H2O
product | (benzo[b]thiophen-3-ylmethyl)isopropylamine | 30.8 g, yield of 60% | S1C2=C(C(=C1)CNC(C)C)C=CC=C2 | C12H15NS
